US04766255
Into a 250-millimiter 3-necked round-bottomed flask was charged a mixture of 11.6 grams (0.20 mole) of acetone, 75 grams (0.80 mole) of phenol, 22 grams (0.20 mole) of chlorotrimethyl silane, and 0.10 gram of butanethiol. The resulting mixture was stirred mechanically and heated at 55° C. under a nitrogen atmosphere for 3 hours. On completion of the reaction, the reaction mixture was cooled to room temperature and filtered. The solid product resulting was slurried up in chlorobenzene, filtered and washed twice with chlorobenzene. Purification by recrystallization from methanol and water afforded bisphenol A with a purity of 99.5 percent in a 83 percent yield.

reactant | acetone | 0.20 mole, 11.6 grams | CC(=O)C | C3H6O
reactant | phenol | 0.80 mole, 75 grams | C1(=CC=CC=C1)O | C6H6O
reactant | chlorotrimethyl silane | 0.20 mole, 22 grams | Cl[Si](C)(C)C | C3H9ClSi
reactant | butanethiol | 0.10 gram | C(CCC)S | C4H10S
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | bisphenol A | 83 percent yield | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
